US07019026B1
To a solution of 5-pyridin-2-ylmethylene-thiazolidine-2,4-dione (5.0 g, 0.024 mol, prepared in a similar way as described in J. Med. Chem. 41 (10), 1619–1630 (1998)) in tetrahydrofuran (300 ml) was added 10% palladium on carbon (1 g) and the resulting mixture was hydrogenated. After 50 ml of hydrogen was consumed and additional portion of 10% palladium on carbon (5 g) was added and the hydrogenation was continued at 50 psi for 16 hours. The mixture was filtered and the filtrate evaporated in vacuo. The residue was subjected to flash column chromatography (1 I silicagel) using a mixture of ethyl acetate/hexane (1:1) as eluent. Semi pure fractions were collected and the solvent evaporated in vacuo affording 0.8 g (16%) of 5-pyridin-2-ylmethyl-thiazolidine-2,4-dione as a solid.

reactant | 5-pyridin-2-ylmethylene-thiazolidine-2,4-dione | N1=C(C=CC=C1)C=C1C(NC(S1)=O)=O | C9H6N2O2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 5-pyridin-2-ylmethyl-thiazolidine-2,4-dione | 0.8 g, 16% | N1=C(C=CC=C1)CC1C(NC(S1)=O)=O | C9H8N2O2S
